US07642276B2
4-Bromo-2-fluorobenzaldehyde oxime
A solution of hydroxylamine in water (50%, 5 ml) was added to a solution of 4-bromo-2-fluorobenzaldehyde (1.0 g) in ethanol (5 ml) and the mixture was stirred at room temp. for 66 h. The ethanol was removed under vacuum and the aqueous residue as extracted with ethyl acetate (×2). The organic extracts were washed with water and brine, dried (MgSO4) and concentrated under vacuum. The residue was purified on a Varian Bond-Elut SPE cartridge (silica, 20 g) eluting with cyclohexane:ethyl acetate (100:0 to 50:50) to give the title compound as a white solid (0.94 g).

reactant | hydroxylamine | NO | H3NO
reactant | 4-bromo-2-fluorobenzaldehyde | 1.0 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
solvent | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Bromo-2-fluorobenzaldehyde oxime | 0.94 g | BrC1=CC(=C(C=NO)C=C1)F | C7H5BrFNO
